US05045223
N-(Methylthiobenzylidene)benzenesulfonamide
A stirred mixture consisting of 2.60 g (17.2 mmol) of 4-methylthiobenzaldehyde, 2.70 g (17.2 mmol) cf benzenesulfonamide and 20 mg of p-toluenesulfonic acid monohydrate in 150 mL of toluene was heated to reflux. The reaction vessel was equipped with a Soxhlet extractor containing 4A molecular sieves. After heating 8 hours, the mixture was allowed to cool to room temperature and was concentrated to afford 4.60 g (92%) of sulfonimine as light tan crystals: mp 1.50°-155° C.; 1H NMR (CDCl3, TMS ext std) δ9.15 (s, 1), 8.27-7.18 (m, 9), 2.53 (s, 3).

reactant | 4-methylthiobenzaldehyde | 17.2 mmol, 2.60 g | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | p-toluenesulfonic acid monohydrate | 20 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-(Methylthiobenzylidene)benzenesulfonamide | CSC(C1=CC=CC=C1)=NS(=O)(=O)C1=CC=CC=C1 | C14H13NO2S2
